US06150521
At 20° C., 5.28 g (0.02 mol) of 2-(3-hydroxyimino-3H-benzofuran-2-ylideneaminooxy)-ethyl acetate (XVI-1) in 20 ml of dimethylformamide are stirred with 4.24 g (0.048 mol) of 45% strength aqueous sodium hydroxide solution for 3 hours. The mixture is acidified with 2 N hydrochloric acid and extracted with ethyl acetate, the organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure. According to HPLC analysis, the crude product contains 23.4% of the stereoisomer A and 4.1% of the stereoisomer B of benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] 3-oxime (X-1). Stirring the crude product with diethyl ether affords 1.4 g (28.5% of theory) of crystalline benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] 3-oxime (X-1) consisting of 84.7% of stereoisomer A and 6% of stereoisomer B (HPLC).

reactant | 2-(3-hydroxyimino-3H-benzofuran-2-ylideneaminooxy)-ethyl acetate | 0.02 mol, 5.28 g | C(C)(=O)OCCON=C1OC2=C(C1=NO)C=CC=C2 | C12H12N2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] 3-oxime | 1.4 g, 28.5% | OCCON=C1OC2=C(C1=NO)C=CC=C2 | C10H10N2O4
